US06831080B2
Step B: (S)-{1-[3-(cis-2,6-Dimethylmorpholin-4-yl)phenyl]ethyl}-carbamic acid tert-butyl ester
A solution of (S)-[1-(3-bromophenyl)ethyl]carbamic acid tert-butyl ester (5 g, 16.7 mmol), cis-2,6-dimethylmorpholine (5.75 g, 3eq.), palladium acetate (5 mol %, 187 mg), 2-(di-t-butylphosphino) biphenyl (10 mol %, 498 mg), and sodium tert-butoxide (1.68 g, 1.05eq) in toluene (33 ml) was stirred at 80° C. for 1.5 hours. The solution was filtered through Celite Pad and washed with ethyl acetate. The filtrate was concentrated under vacuum and purified by flash chromatography with gradient of 20% ethyl acetate/hexane to 30% ethyl acetate/hexane over 20 minutes. The product was obtained as a yellow solid (2.12 g, 38% yield).

reactant | (S)-[1-(3-bromophenyl)ethyl]carbamic acid tert-butyl ester | 16.7 mmol, 5 g | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)Br)=O | C13H18BrNO2
reactant | cis-2,6-dimethylmorpholine | 5.75 g, 3eq. | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
reactant | 2-(di-t-butylphosphino) biphenyl | 498 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium tert-butoxide | 1.68 g, 1.05eq | CC(C)([O-])C.[Na+]
solvent | toluene | 33 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 187 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (S)-{1-[3-(cis-2,6-Dimethylmorpholin-4-yl)phenyl]ethyl}-carbamic acid tert-butyl ester | 2.12 g, 38% yield | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)N1C[C@H](O[C@H](C1)C)C)=O | C19H30N2O3
